US07087787B1
p-(Octylthiomethyl)benzyl chloride
1.83 g (19 mmol) of sodium t-butoxide and 2.78 g (19 mmol) of octanethiol were stirred into 40 g of methanol at room temperature. After 30 minutes, the clear solution was added in one portion to 3.33 g (19 mmol) of p-xylylene dichloride in 100 g of methanol. After one hour, the mixture was neutralized using 1N hydrochloric acid, and all the volatile components were removed under reduced pressure. The crude product was taken up in 250 ml of chloroform and washed twice with 100 ml of water each time, dried and evaporated under reduced pressure. 5.29 g, which, according to 1H-NMR-spectroscopy, consisted of 50% of product, 25% of starting material and 25% of p-bis(octylthiomethyl)benzene.

reactant | sodium t-butoxide | 19 mmol, 1.83 g | CC(C)([O-])C.[Na+]
reactant | octanethiol | 19 mmol, 2.78 g | C(CCCCCCC)S | C8H18S
reactant | p-xylylene dichloride | 19 mmol, 3.33 g | C1(=CC=C(C=C1)CCl)CCl | C8H8Cl2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 100 g | CO | CH4O
solvent | methanol | 40 g | CO | CH4O
product | p-(Octylthiomethyl)benzyl chloride | C(CCCCCCC)SCC1=CC=C(CCl)C=C1 | C16H25ClS
